US06346625B1
A solution of 0.16 g (1.00 mmol) of indole-3-carboxylic acid methyl ester, 0.5 g (4 mmol) of K2CO3 and 0.5 g (5 mmol) of 1-bromopropane in 10 ml of DMF was stirred at 50° C. overnight. The mixture was partitioned between EtOAc and water. The aqueous phase was extracted with additional EtOAc. The combined organic phases were washed with water, brine and finally dried over Na2SO4 to give crude 1-propylindole-3-carboxylic acid methyl ester.

reactant | indole-3-carboxylic acid methyl ester | 1.00 mmol, 0.16 g | COC(=O)C1=CNC2=CC=CC=C12 | C10H9NO2
reactant | K2CO3 | 4 mmol, 0.5 g | C(=O)([O-])[O-].[K+].[K+]
reactant | 1-bromopropane | 5 mmol, 0.5 g | BrCCC | C3H7Br
solvent | DMF | 10 ml | CN(C)C=O | C3H7NO
product | 1-propylindole-3-carboxylic acid methyl ester | COC(=O)C1=CN(C2=CC=CC=C12)CCC | C13H15NO2
